US06982274B2
3-Iodo-5-nitro-1-trityl-1H-indazole
To a solution of 27.5 g of 3-iodo-5-nitro-1H-indazole in 300 ml tetrahydrofuran at 0° C. in an atmosphere of nitrogen gas was added 6.1 g of 60% sodium hydride, and the mixture was stirred at the same temperature for 10 minutes. To the mixture was added 39.8 g of trityl chloride, followed by stirring at room temperature for 1 hour. Water was added and the mixture was diluted with ethyl acetate. The organic layer was sequentially washed with saturated aqueous ammonium chloride solution and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The resulting crude crystals were washed with diethyl ether, to give 48.5 g of the title compound as colorless crystals.

reactant | 3-iodo-5-nitro-1H-indazole | 27.5 g | IC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C7H4IN3O2
reactant | sodium hydride | 6.1 g | [H-].[Na+]
reactant | trityl chloride | 39.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | Water | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Iodo-5-nitro-1-trityl-1H-indazole | 48.5 g | IC1=NN(C2=CC=C(C=C12)[N+](=O)[O-])C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H18IN3O2
